US04945098
1-Octadecylaminocarbonyloxy-3-(4-bromobutylaminocarbonyloxy)-2-methylenepropane
3-Octadecylaminocarbonyloxy-2-methylenepropan-1-ol (from Preparation 3) (2.0 g) was dissolved in methylene chloride (40 ml). 4-Dimethylaminopyridine (0.13 g) and 4-bromobutyl isocyanate (1.30 g) were added, and the mixture was stirred for 22 hours at 22° C. Ether (40 ml) was added, and the mixture was purified through a column of silica gel 60 (70-230 mesh, 20 g) eluting with ether/chloroform 1:1. Further purification was achieved by chromatography on a Waters PrepLC®/System 500A using a PrepPAK®-500/SILICA cartridge with ether/chloroform/pentane 1:1:2 as eluent.

reactant | 3-Octadecylaminocarbonyloxy-2-methylenepropan-1-ol | 2.0 g | C(CCCCCCCCCCCCCCCCC)NC(=O)OCC(CO)=C | C23H45NO3
reactant | 4-bromobutyl isocyanate | 1.30 g | BrCCCCN=C=O | C5H8BrNO
reactant | Ether | 40 ml | CCOCC | C4H10O
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
catalyst | 4-Dimethylaminopyridine | 0.13 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 1-Octadecylaminocarbonyloxy-3-(4-bromobutylaminocarbonyloxy)-2-methylenepropane | C(CCCCCCCCCCCCCCCCC)NC(=O)OCC(COC(=O)NCCCCBr)=C | C28H53BrN2O4
